US09107916B2
A. methyl 3-chloro-4-ethylbenzoate
Charge NaNO2 (579 mg, 8.37 mmol) and concentrated sulfuric acid (6 mL) to a flask. As methyl 3-amino-4-ethylbenzoate (1.37 g, 7.62 mmol, PREPARATION 5) in acetic acid (18 mL) was added at 0° C., color of the mixture turned to yellow, and then stirred at 5° C. for 1.5 h. The solution above was added to a dark mixture of CuCl (1.65 g, 16.65 mmol) in concentrated HCl (18 mL) slowly at 0° C., stirred for 2 h, and poured into ice water, extracted with DCM, the organic phase was concentrated to give 582 mg of the title compound (38%). 1H NMR (400 MHz, CDCl3): δ 1.25 (3H, t, J=8.0 Hz), 2.80 (2H, q, J=7.6 Hz), 3.91 (3H, s), 7.30 (1H, d, J=7.6 Hz), 7.85 (1H, dd, J=1.2, 7.6 Hz), 8.01 (1H, d, J=1.6 Hz).

reactant | NaNO2 | 8.37 mmol, 579 mg | N(=O)[O-].[Na+]
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl 3-amino-4-ethylbenzoate | 7.62 mmol, 1.37 g | NC=1C=C(C(=O)OC)C=CC1CC | C10H13NO2
reactant | HCl | 18 mL | Cl | ClH
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
catalyst | CuCl | 16.65 mmol, 1.65 g | Cl[Cu]
product | methyl 3-chloro-4-ethylbenzoate | 582 mg, 38% | ClC=1C=C(C(=O)OC)C=CC1CC | C10H11ClO2
